US08536168B2
Methanesulfonic acid 2-[4-(4-benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-2-hydroxy-propyl ester
2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-propane-1,2-diol (100 mg, 0.219 mmol) is combined with THF (1.5 mL). The reaction is chilled to 0° C. and triethylamine (95 μL, 0.329 mmol) is added followed by mesyl chloride (100 μL, 0.2 M in THF, 0.263 mmol). The reaction is allowed to warm to room temperature and stir for 96 h. Reaction is quenched with saturated ammonium chloride solution (0.5 mL), diluted with additional water and extracted with EtOAc. Wash combined organics with brine. Concentrate organics in vacuo to afford the title compound (117 mg, 99%).

reactant | 2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-propane-1,2-diol | 0.219 mmol, 100 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(CO)(C)O | C26H28N6O2
reactant | triethylamine | 0.329 mmol, 95 μL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.263 mmol, 0.2 M, 100 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 2-[4-(4-benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-2-hydroxy-propyl ester | 117 mg, 99% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(COS(=O)(=O)C)(C)O | C27H30N6O4S
